US07834015B2
Step 1: 2,2,2-Trichloro-1-(4-chloro-1H-pyrrol-2-yl)ethanone (J1)
To a solution of 2,2,2-trichloro-1-(1H-pyrrol-2-yl)ethanone (1 eq.) in dry DCM (1 M) at 0° C. was added sulfuryl chloride (1.15 eq.) dropwise. The mixture was stirred overnight at RT, washed with water (2×) and sat. aq. NaHCO3 solution. The organic phase was separated, dried (Na2SO4) and concentrated under reduced pressure. The crude product was purified by on chromatography on silica gel, eluting with petroleum ether/Et2O to afford the title compound as a colorless solid. 1H NMR (400 MHz, CDCl3) δ: 9.45 (1H, br. S), 7.26 (1H, s), 7.09 (1H, s).

reactant | 2,2,2-trichloro-1-(1H-pyrrol-2-yl)ethanone | 1 eq. | ClC(C(=O)C=1NC=CC1)(Cl)Cl | C6H4Cl3NO
reactant | sulfuryl chloride | 1.15 eq. | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | DCM | 1 M | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trichloro-1-(4-chloro-1H-pyrrol-2-yl)ethanone | ClC(C(=O)C=1NC=C(C1)Cl)(Cl)Cl | C6H3Cl4NO
